US04824848
7-(3-Chlorobenzyl)-2-methoxycarbonyl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
To a mixture of 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (1.0 g, 2.9 mM) and triethylamine (1.2 ml, 8.6 mM) in dioxane (50 ml) was added dropwise methyl chloroformate (0.66 ml, 8.5 mM) at room temperature and the mixture was allowed to stir at the same temperature for 20 hours. The mixture was concentrated to dryness and the residue was triturated with water (10 ml). Recrystallization from chloroform/methanol gave colorless crystals (1.0 g, 86%), m.p. 164°-166° C.

reactant | 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.9 mM, 1.0 g | ClC=1C=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCC)=O)C=CC1 | C16H18ClN5O2
reactant | triethylamine | 8.6 mM, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 8.5 mM, 0.66 ml | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 7-(3-Chlorobenzyl)-2-methoxycarbonyl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 1.0 g, 86% | ClC=1C=C(CN2C(N(C(C=3C2=NN(C3NC)C(=O)OC)=O)CCC)=O)C=CC1 | C18H20ClN5O4
